US07601722B2
In an analogous manner to general procedure V, 1-[2-(2-bromoethoxy)ethyl]-3-(2,4-difluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide (0.66 g, 1.5 mmol) was treated with 8N methylamine in methanol to give 2-{2-[3-(2,4-difluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]ethoxy}-N-methylethanamine which was treated with 1N hydrochloric acid in ether to afford its hydrochloride salt as a white solid (0.10 g, 16%). MS (ES) m/z 384.3 ([M+H]+).

reactant | 1-[2-(2-bromoethoxy)ethyl]-3-(2,4-difluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | 1.5 mmol, 0.66 g | BrCCOCCN1S(N(C2=C1C=CC=C2)C2=C(C=C(C=C2)F)F)(=O)=O | C16H15BrF2N2O3S
reactant | methylamine | 8N | CN | CH5N
solvent | methanol | CO | CH4O
product | 2-{2-[3-(2,4-difluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]ethoxy}-N-methylethanamine | FC1=C(C=CC(=C1)F)N1S(N(C2=C1C=CC=C2)CCOCCNC)(=O)=O | C17H19F2N3O3S
